Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a PMH of chronic abdominal 
pain, morbid obesity s/p gastric bypass, CCY and reversal of 
gastric bypass, HTN, DM, asthma, opiate dependence/addiction, 
depression/anxiety, DVT/PE, who presented with epigastric/ruq 
abdominal pain for 5 days.  
 
Past Medical History:
- Morbid obesity status post gastric bypass and cholecystectomy 
in ___ with subsequent reversal surgery at the ___ - 
multiple prior abdominal surgeries including a J-tube in ___ 
with apparent complication of a perforated colon.  
- History of recurrent esophageal candidiasis s/p treatment  
- History of hypertension, DM, and asthma prior to gastric 
bypass.  
- DVT and PE in ___ on warfarin.  
- CVA with residual Lt sided weakness and slurred speech  
- History of SBO  
- Chronic pain  
- History of opiate addiction: prior intranasal heroin, oral 
dilaudid abuse, on methaone.  
- Degenerative disc disease  
- Depression/anxiety  

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
Admission Physical Exam:

Vitals:  Tc   BP   HR  RR  on RA
Tele: no alarms, HR stable in the 
General:  elderly woman  
HEENT:  anicteric sclera, no conjunctival pallor, OP clear with 
MMM.
Neck: Supple,
Lungs:  clear to auscultation bilaterally, no wheezes, rhonchi 
or crackles
CV: RRR, no m/r/g
Abdomen:  normoactive bowel sounds; soft, non-tender, 
nondistended
Ext: warm, well-perfused; no edema
Neuro: moving all four limbs spontaneously, A&O x3 

Discharge Physical Exam: 

Vitals: Temp: 98.0, BP: 96/60, Pulse: 72, RR: 16, O2: 98% RA
General: A+Ox3, NAD
CV: RRR, no m/r/g
Pulm: CTA b/l
Abdomen: soft, non-distended, non-tender
Extremeties: warm, well-perfused, no edema 
 
Pertinent Results:
Labs: 
___ 08:52AM BLOOD WBC-7.1# RBC-2.83* Hgb-9.0* Hct-29.0* 
MCV-103* MCH-31.8 MCHC-31.0* RDW-15.9* RDWSD-60.0* Plt ___

___ 04:08AM BLOOD WBC-4.6 RBC-2.83* Hgb-9.1* Hct-29.0* 
MCV-103* MCH-32.2* MCHC-31.4* RDW-15.5 RDWSD-58.6* Plt ___
___ 05:44AM BLOOD WBC-3.8* RBC-3.37* Hgb-10.6* Hct-33.4* 
MCV-99* MCH-31.5 MCHC-31.7* RDW-14.8 RDWSD-53.2* Plt ___
___ 06:31AM BLOOD WBC-3.7* RBC-3.02* Hgb-9.6* Hct-30.3* 
MCV-100* MCH-31.8 MCHC-31.7* RDW-14.6 RDWSD-52.7* Plt ___
___ 06:04AM BLOOD WBC-2.9* RBC-3.38* Hgb-10.6* Hct-33.7* 
MCV-100* MCH-31.4 MCHC-31.5* RDW-14.4 RDWSD-51.8* Plt ___
___ 05:46AM BLOOD WBC-3.1* RBC-3.38* Hgb-10.5* Hct-33.8* 
MCV-100* MCH-31.1 MCHC-31.1* RDW-14.1 RDWSD-51.1* Plt ___

Imaging:

___: CT Abd/Pelvis:
1. New collection of air within the midline anterior abdomen 
measuring up to 2.5 cm, anterior and superior to the mid 
transverse colon, concerning for a contained perforation or 
fistula.  No fluid or oral contrast is definitively seen within 
this collection of gas, and there is progressive adjacent soft 
tissue stranding about this area. 
  
2. Status post gastric bypass reversal.  No evidence of small 
bowel 
obstruction or oral contrast extravasation. 
  
3. Unchanged mild to moderate intra and extrahepatic biliary 
ductal 
dilatation. 

___: Esophagus:

Limited study due to residual oral contrast in the large bowel 
in the region of the anastomosis.  Within these limitations no 
evidence of obstruction or leak. 

___: CT Abd/Pelvis:

1. Interval decrease in the size of the known anterior midline 
upper abdominal collection, currently 16 x 7 mm (previously 25 x 
13 mm); a small focus of adjacent air appears internal to the 
collection versus intraluminal, within the adjacent transverse 
colon.  No evidence of free intraperitoneal elsewhere. 
2. Diffuse intra- and extrahepatic biliary and pancreatic ductal 
dilation 
status post cholecystectomy.  No evidence of obstructing mass or 
stone.  While this appears long-standing, dating back to at 
least ___, given subtle, mildly increased prominence 
over multiple prior studies, non-urgent MRCP versus ERCP should 
be considered. 
3. Stable postsurgical changes throughout the upper abdomen 
status post 
Roux-en-Y gastric bypass reversal.  No evidence of obstruction. 
4. New trace left layering simple pleural effusion. 
5. Other incidental findings as above. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of gastric 
bypass and cholecystectomy with subsequent reversal surgery and 
multiple prior abdominal surgeries including a J-tube in ___ 
with apparent complication of a perforated colon.  She presented 
to ___ on ___ with complaints of abdominal pain and had a 
CT abdomen/pelvis on HD1 which raised concern for intestinal 
perforation.  She was admitted to the Acute Care Surgery team 
and transferred to the Surgical ICU for serial abdominal exams 
and close observation.  
  
On HD2, the patient had a PICC placed for IV access. On HD3, the 
patient underwent a swallow study and a nasogastric tube was 
placed into the stomach by a surgery resident Dr. ___ 
fluoroscopic guidance. Given the patient's history of a past 
DVT, heparin gtt was started and serial PTTs were drawn until 
the patient reached stable therapeutic levels.

After remaining stable in the surgical ICU, the patient was then 
transferred to the step-down surgical floor. 

On HD9, the patient's nasogastric tube was discontinued and she 
was started on a clear liquid diet.  The patient tolerated a 
clear liquid diet and her home medicines were started.

On HD10, the patient was evaluated by the Chronic Pain service 
and her pain medicine regimen was adjusted.  

On HD12 the patient's heparin drip was discontinued and Coumadin 
was initiated. 

Neuro: The patient was alert and oriented throughout 
hospitalization.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was advanced to a regular diet, which was 
well tolerated. Patient's intake and output were closely 
monitored

ID: The patient's fever curves were closely watched for signs of 
infection.  She had blood cultures drawn on HD1 which grew 
Staphylococcus, coagulase negative.  Nasal swab from HD1 was 
positive for MRSA. H.pylori test from HD2 was shown to be 
equivocal.  

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient was noted to have an area of rash and 
skin breakdown between her gluteal folds and miconazole powder 
was ordered.  The patient was discharged with mepilex dressings 
and was instructed to alternate positioning to her side to 
relieve pressure.  The patient's left upper extremity PICC was 
removed on ___.  

The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. 

 
Medications on Admission:
BuPROPion (Sustained Release) 150 mg PO BID  
 Calcium Carbonate 1000 mg PO QID:PRN GI distress  
 ClonazePAM 1.5 mg PO QHS  
 ClonazePAM 0.5 mg PO DAILY at 8 am  
 ClonazePAM 1 mg PO DAILY  
 Cyanocobalamin 1000 mcg PO DAILY  
 Docusate Sodium 100 mg PO QHS  
 Doxepin HCl 100 mg PO HS  
Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain  
 Guaifenesin ___ mL PO Q6H:PRN cough  
 Methadone 20 mg PO Q8H  
 Multivitamins 1 TAB PO DAILY  
 OxycoDONE (Immediate Release) 10 mg PO Q6H:PRN pain  
 QUEtiapine Fumarate 300 mg PO HS  
 Sucralfate 1 gm PO QID  
 Senna 8.6 mg PO QHS  
 QUEtiapine Fumarate 100 mg PO QAM  
 Polyethylene Glycol 17 g PO DAILY:PRN constipation  
 Pantoprazole 40 mg PO Q12H  
 Ondansetron 4 mg PO Q8H:PRN nausea  
 FoLIC Acid 1 mg PO DAILY  
 cranberry 2 tabs oral BID  
 Ascorbic Acid ___ mg PO TID  
Vitamin D 50,000 UNIT PO MONTHLY  
Ferrous Sulfate 325 mg PO TID  
 Furosemide 20 mg PO DAILY  
 Lidocaine 5% Patch 1 PTCH TD QAM  
 Simethicone 120 mg PO TID abdominal pain  
 Warfarin 15 mg PO DAILY16  
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
do NOT exceed 3gm in 24 hours 
2. FoLIC Acid 1 mg PO DAILY 
3. Gabapentin 300 mg PO TID Chronic pain 
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
do NOT drive or drink alcohol while taking this medication 
5. Methadone 20 mg PO TID 
6. Pantoprazole 40 mg PO Q12H 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. QUEtiapine extended-release 300 mg PO QHS 
9. QUEtiapine extended-release 100 mg PO QAM 
10. Senna 8.6 mg PO BID 
11. ___  MD to order daily dose PO DAILY16 
12. Thiamine 100 mg PO DAILY 
13. Ascorbic Acid ___ mg PO DAILY 
14. BuPROPion (Sustained Release) 150 mg PO BID 
15. ClonazePAM 0.5 mg PO QAM 
16. ClonazePAM 1 mg PO DAILY 
17. ClonazePAM 1.5 mg PO QHS 
18. Docusate Sodium 100 mg PO BID 
please hold for loose stool 
19. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intestinal perforation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to the ___ on 
___ with complaints of abdominal pain. You were found to 
have an intestinal perforation. You were admitted to the Acute 
Care Surgery team for further medical treatment. 

Over the course of your hospitalization, you have continued to 
improve.  You are now tolerating a regular diet and your pain is 
controlled with oral pain medication.  You are now ready to be 
discharged to rehab to continue your recovery.  

Please note the following discharge instructions: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___